US04179453
Step A. Preparation of (3β-hydroxypregn-5-en-20-one-21-yl) pyridinium iodide
In a large beaker clamped in an oil bath maintained at 100° C. and containing 100 ml. of pyridine are placed 50 g. of pregnenolone. The beaker is capped with a watch glass and the mixture is stirred until solution is complete. To this mixture is added 43.3 g. of crushed iodine as quickly as possible, and the opaque black-brown solution is quickly stirred to fully dissolve the iodine as much as possible before obvious reaction, and in particular, crystallization begins. Within a few minutes a gentle but brisk reaction begins as indicated by bubbling. Heating is continued for about 1.5 to 2 hours. The reaction mixture is allowed to cool, and the granular reaction product is gently broken up with a spatula and transferred to a sintered glass funnel, crushed to a firm layer, and sucked dry. The beaker is rinsed with pyridine and added to the cake; the cake is resuspended, pressed to a layer again, and sucked dry again. One or two more washes are usually suffient to remove the bulk of contaminating pyridinium hydroiodide present. The cake is now sucked dry under a nitrogen atmosphere to give from 72 g. to 78 g. of the pyridinium iodide compound, having a m.p. of 223°-225° C. Theoretical yield is 83 g. The product is usually contaminated with pyridinium hydroiodide, but since this contaminant does not appear to interfere with the next step, no attempt is made to remove it.

reactant | pregnenolone | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C | C21H32O2
reactant | iodine | II | I2
reactant | pyridinium iodide | [I-].[NH+]1=CC=CC=C1
reactant | pyridinium hydroiodide | I.[NH+]1=CC=CC=C1
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (3β-hydroxypregn-5-en-20-one-21-yl) pyridinium iodide | [I-].O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C[N+]5=CC=CC=C5)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | InChI=1S/C26H36NO2.HI/c1-25-12-10-19(28)16-18(25)6-7-20-21-8-9-23(26(21,2)13-11-22(20)25)24(29)17-27-14-4-3-5-15-27;/h3-6,14-15,19-23,28H,7-13,16-17H2,1-2H3;1H/q+1;/p-1/t19-,20-,21-,22-,23+,25-,26-;/m0./s1
